US09034900B2
Step 2: 1,3-dimethyl-5-(3-methylsulfonyl-5-phenylmethoxyphenyl)pyridin-2-one
A capped mixture of 5-(3-hydroxy-5-methylsulfonylphenyl)-1,3-dimethylpyridin-2-one (25 mg, 0.085 mmol), benzyl bromide (20 mg, 0.12 mmol), and Na2CO3 (18 mg, 0.17 mmol) in DMF (600 uL) was heated to 80° C. for 90 min. The mixture was filtered and the filter cake was washed with ACN (500 uL), the filtrate was purified by prep-HPLC to afford the title compound (8 mg, 25%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.08-2.13 (m, 3H) 3.26-3.28 (m, 3H) 3.51-3.57 (m, 3H) 5.22-5.34 (m, 2H) 7.33-7.47 (m, 4H) 7.48-7.53 (m, 2H) 7.54-7.60 (m, 1H) 7.67-7.71 (m, 1H) 7.83-7.88 (m, 1H) 8.17-8.22 (m, 1H). LCMS (M+H)+=384.

reactant | 5-(3-hydroxy-5-methylsulfonylphenyl)-1,3-dimethylpyridin-2-one | 0.085 mmol, 25 mg | OC=1C=C(C=C(C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)C | C14H15NO4S
reactant | benzyl bromide | 0.12 mmol, 20 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Na2CO3 | 0.17 mmol, 18 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 600 uL | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-(3-methylsulfonyl-5-phenylmethoxyphenyl)pyridin-2-one | 8 mg, 25% | CN1C(C(=CC(=C1)C1=CC(=CC(=C1)OCC1=CC=CC=C1)S(=O)(=O)C)C)=O | C21H21NO4S
